US07618975B2
(4-Fluoro-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine
The title compound was prepared from 4-chloro-2-methyl-quinazoline (178.6 mg, 1.0 mmol) and (4-fluoro-phenyl)-methyl-amine (125 mg, 2.52 mmol) by a procedure similar to example 28 (46.8%). 1H NMR (CDCl3): 7.76 (dd, J=0.9 Hz, J=8.3 Hz, 1H), 7.58-7.52 (m, 1H), 7.16-7.00 (m, 6H), 3.60 (s, 3H), 2.73 (s, 3H),

reactant | 4-chloro-2-methyl-quinazoline | 1.0 mmol, 178.6 mg | ClC1=NC(=NC2=CC=CC=C12)C | C9H7ClN2
reactant | (4-fluoro-phenyl)-methyl-amine | 2.52 mmol, 125 mg | FC1=CC=C(C=C1)NC | C7H8FN
product | (4-Fluoro-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine | FC1=CC=C(C=C1)N(C)C1=NC(=NC2=CC=CC=C12)C | C16H14FN3
